US06008407
Preparation of 4,5-difluoro-ortho-xylene
To a stirred solution of 5-chloro-1,2-dimethyl-4,4,5-trifluorocyclohexene of 12.6 g prepared in Example 14 was added 1.0 g of benzyltriethylammonium chloride, and then the reaction mixture was heated to 80° C. followed by slowly adding 40 g of 50% aqueous sodium hydroxide solution for 30 min. The reaction mixture was stirred for additional 2 hours at 80° C., and then the resultant was purified by steam distillation followed by separating the aqueous layer. The organic layer was dried with calcium chloride, and then 7.3 g of the desired product was collected by fractional distillation at temperature 150° C. as a colorless liquid.

reactant | 5-chloro-1,2-dimethyl-4,4,5-trifluorocyclohexene | ClC1(C(CC(=C(C1)C)C)(F)F)F | C8H10ClF3
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 1.0 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 4,5-difluoro-ortho-xylene | FC=1C=C(C(=CC1F)C)C | C8H8F2
